US04771045
Under ice-cooling, 2.58 g of 2-mercaptoethanol and 33 ml of 1N sodium hydroxide are added to a solution of 12.2 g of (3R,4R)-4-methylsulfonyl-3-tritylamino-2-azetidinone in 150 ml of tetrahydrofuran, and the mixture is stirred for 30 minutes. The solvent is then distilled off under reduced pressure and 150 ml of ethyl acetate is added. The ethyl acetate layer is separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography using ethyl acetate-n-hexane (1:2). The earlier eluate fractions are combined and concentrated under reduced pressure to give 5.6 g of (3R,4R)-4-[[2-(hydroxy)ethyl]thio]-3-tritylamino-2-azetidinone.

reactant | 2-mercaptoethanol | 2.58 g | SCCO | C2H6OS
reactant | sodium hydroxide | 1N, 33 ml | [OH-].[Na+]
reactant | (3R,4R)-4-methylsulfonyl-3-tritylamino-2-azetidinone | 12.2 g | CS(=O)(=O)[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H22N2O3S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | (3R,4R)-4-[[2-(hydroxy)ethyl]thio]-3-tritylamino-2-azetidinone | 5.6 g | OCCS[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24N2O2S
